US06589970B2
Step 6: 2-Methyl-benzofuran-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-amide.
A mixture of 2-methyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-amide (233 mg, 0.52 mmol), prepared in the previous step, sodium azide (101 mg, 1.56 mmol) and ammonium chloride (83 mg, 1.55 mmol) in 15 mL of DMF was stirred under nitrogen at 100° C. for 8 h. The reaction was diluted with 35 mL of water, made basic by the addition of 3 mL of 1 N NaOH and extracted five times with ethyl acetate. The aqueous layer was acidified by the addition of 5 mL of 1 N HCl. The solid that precipitated was collected by filtration and dried under reduced pressure to give the title compound (216 mg, 85%) as a white solid, mp 242-244° C.

reactant | 2-methyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-amide | 0.52 mmol, 233 mg | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CNC(=O)C1=C(OC2=C1C=CC=C2)C | C23H17BrN2O3
reactant | sodium azide | 1.56 mmol, 101 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.55 mmol, 83 mg | [Cl-].[NH4+]
reactant | NaOH | 1 N, 3 mL | [OH-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 35 mL | O | H2O
product | 2-Methyl-benzofuran-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-amide | 216 mg, 85% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CNC(=O)C1=C(OC2=C1C=CC=C2)C | C23H18BrN5O3
